US09035073B2
3-(3,5-difluorophenyl)-3-methoxypyrrolidine
To a solution of tert-butyl-3-(3,5-difluorophenyl)-3-methoxypyrrolidin-1-carboxylate (2.64 g, 8.4 mmol) in methylene chloride (20 mL), was added trifluoroacetic acid (5 mL). The mixture was stirred for 1 h at ambient temperature after which aqueous saturated ammonium chloride solution (50 ml) was added and the aqueous phase was extracted with methylene chloride (2×50 mL). The combined organic phase was dried (Na2SO4), filtered and evaporated to give the crude product, purification on a Biotage Isolute SCX-3 SPE column (washed with methanol and eluted with methanol/triethylamine, 4:1) gave the title compound (1.3 g, 73%). MS m/z (rel. intensity, 70 eV) 213 (M+, 0.5), 183 (bp), 171 (89), 141 (80), 113 (88).

reactant | tert-butyl-3-(3,5-difluorophenyl)-3-methoxypyrrolidin-1-carboxylate | 8.4 mmol, 2.64 g | C(C)(C)(C)OC(=O)N1CC(CC1)(OC)C1=CC(=CC(=C1)F)F | C16H21F2NO3
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-(3,5-difluorophenyl)-3-methoxypyrrolidine | 1.3 g, 73% | FC=1C=C(C=C(C1)F)C1(CNCC1)OC | C11H13F2NO
